US05232922
N-(1,3-Dimorpholino-2-propyl)-1-methyl-4-imidazolesulfonamide
4 g (17.5 mmol) of 1,3-dimorpholino-2-propylamine and 3.5 g (17.5 mmol) of MSTFA [N-methyl-N-(trimethylsilyl)trifluoroacetamide] are combined under argon and stirred at room temperature for 17 hours. The clear solution is then concentrated in vacuo at 40° C./0.1 torr. A solution of 3.16 g (17.5 mmol) of 1-methyl-4-imidazolesulfonyl chloride in 20 ml of absolute dichloromethane is added at 20° C. with stirring to the oil obtained. After further stirring for 6 hours at 20° C., the solvent is distilled off in vacuo at 20° C./18 torr. The oil remaining crystallizes from isopropanol. After decolorization with active carbon, recrystallization from methanol/isopropanol gives the title compound of melting point 191°-192° C.

reactant | 1,3-dimorpholino-2-propylamine | 17.5 mmol, 4 g | O1CCN(CC1)CC(CN1CCOCC1)N | C11H23N3O2
reactant | MSTFA | 17.5 mmol, 3.5 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | 1-methyl-4-imidazolesulfonyl chloride | 17.5 mmol, 3.16 g | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(1,3-Dimorpholino-2-propyl)-1-methyl-4-imidazolesulfonamide | O1CCN(CC1)CC(CN1CCOCC1)NS(=O)(=O)C=1N=CN(C1)C | C15H27N5O4S
